Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neuro Eval
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo RH woman with a PMH notable for Right ACA/MCA watershed
stroke (with residual left leg weakness and numbness) ___
with tight right ICA stenosis on coumadin and aspirin,
___-Danlos, L5-S1 disc surgery, asthma, obesity and 
depression
p/w dizziness and drifting to the right while walking. Promptly,
Next, Neurology was called.

She was admitted to neurology service in ___ after she came
with acute onset left leg weakness and was found to have R
watershed stroke sec to ICA stenosis on right. She was started 
on
asa and coumadin and vascular surg recs were obtained who
suggested medical treatment for now. She was sent home with home
___ and recovered well but a little weakness and numbness in left
leg.

Over last ___ days she started noticing increasing dizzines
(unsteady sensation like "spinning") and for last ___ days noted
that she was drifting to the right side while walking. Her niece
who is a phlobotomist was sharp to pick it up and promptly bring
her to the ED for neuro eval. She thinks that her "speech" has
become somewhat slower and her right arm is shaking
intermittently. 

She denies any falls/ any visual changes/ new weakness

Rest of ROS is negative. 
 
Past Medical History:
stroke as mentioned. ___, L5-S1 disc surgery,
asthma, obesity and depression. Duodenal ulcer.
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Gen: Lying in bed, NAD.
HEENT: NC/AT, moist oral mucosa
Neck: supple, no carotid or vertebral bruit
Back: No point tenderness or erythema
CV: Nl S1 and S2, no murmurs/gallops/rubs
Lung: Clear to auscultation bilaterally
Abd: Soft, nontender, non-distended.  No masses or megalies.
Percussion within normal limits. +BS. 
Ext: no edema, no DVT data. Pulses ++ and symmetric.
.

MS:
General:  alert, awake, normal affect
Orientation:  oriented to person, place, date, situation.
___ backwards +: 
Follows simple axial and appendicular commands. memory: ___ and
Recalls ___ . Speech/Language: fluent w/o paraphasic (phonemic 
or
semantic) errors; comprehension, repetition, naming (high and 
low
frequency objects): normal. Prosody: normal. No apraxia/neglect. 


CN:
I: not tested
II,III:  VFF to confrontation, PERRL 3mm to 2mm,  fundus w/o
papilledema. No red desaturation.  
III,IV,VI: EOMI, no ptosis. No pathological nystagmus. Normal
pursuit. 
V:  sensation intact V1-V3 to LT. PP
VII:  Facial strength intact/symmetrical
VIII:  hears finger rub bilaterally
IX,X:  palate elevates symmetrically, uvula midline
XI:  SCM/trapezeii ___ bilaterally
XII:  tongue moves properly in both directions (no asymmetry
seen), no dysarthria

Motor:
Normal bulk. 
Tone: decreased on the left leg. No tremor, no asterixis or
myoclonus. No pronator drift:
.
       Delt;C5 bic:C6 Tri:C7 Wr ext:C6 Fing ext:C7
Left    5       5      5        5          5            
Right   4+      5      4+       5          5            

Power exam in ___ : normal in RLE. she has mild IP and Hamstring
(4+) and moderate to severe DF (4) and TE(4-) weakness on the
left.
.
Deep tendon Reflexes:
.
       Bicip: Tric: Brachial: Patellar:  Achilles   Toes:
Right   2        2         2          3      2   DOWNGOING
Left    2        2         2          3      2   UPGOING 
.
Sensation: loss of sensation below knee on left to pain and 
touch
consistent with the exam mentioned in previous notes from old
stroke 

Coordination:
*Finger-nose-finger normal.
*Rapid Arm Movements normal.
*Fine finger tapping: normal.
*Heal to shin: normal.

Rhomberg : neg

Gait :walks with cane, drifts to the right while walking.
 
Pertinent Results:
Laboratory data:
___ 04:00PM BLOOD WBC-11.9* RBC-4.79 Hgb-14.8 Hct-42.2 
MCV-88 MCH-30.9 MCHC-35.0 RDW-13.8 Plt ___
___ 06:15AM BLOOD WBC-9.8 RBC-4.56 Hgb-14.2 Hct-40.8 MCV-90 
MCH-31.1 MCHC-34.7 RDW-13.9 Plt ___
___ 04:00PM BLOOD Neuts-74.6* ___ Monos-2.2 Eos-2.4 
Baso-1.2
___ 04:00PM BLOOD ___ PTT-37.8* ___
___ 06:15AM BLOOD ___ PTT-39.3* ___
___ 04:00PM BLOOD Glucose-103* UreaN-14 Creat-1.0 Na-143 
K-4.1 Cl-103 HCO3-31 AnGap-13
___ 06:15AM BLOOD Glucose-93 UreaN-14 Creat-0.9 Na-141 
K-3.7 Cl-105 HCO3-27 AnGap-13
___ 04:00PM BLOOD Calcium-10.1 Phos-4.2 Mg-2.0
___ 06:15AM BLOOD Calcium-9.1 Phos-4.6* Mg-2.0 Cholest-158
___ 06:15AM BLOOD %HbA1c-5.5 eAG-111
___ 06:15AM BLOOD Triglyc-100 HDL-51 CHOL/HD-3.1 LDLcalc-87
___ 04:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 04:00PM URINE RBC-1 WBC-8* Bacteri-MANY Yeast-NONE 
Epi-2
.
Imaging:
___   MR HEAD W/O CONTRAST: 1. No acute infarct, hemorrhage 
or mass. 
2. Chronic near occlusion of the right internal carotid artery, 
better 
demonstrated on the recent CTA head and neck. 
            
___   CTA HEAD/NECK ___ C & RECO: 
1. Near occlusion of the right internal carotid artery origin, 
with a thin 
trickle of trough of contrast seen in the more distal right 
cervical ICA, 
similar to prior, with intracranial reconstitution likely via 
the ophthalmic and right PCom. 
2. No evidence of interval infarct, hemorrhage or mass.  
              
___   CT HEAD W/O CONTRAST: No acute intracranial process.  
     
 
Brief Hospital Course:
___ yo RH woman with a PMH notable for old R ACA / MCA stroke, 
right ICA stenosis,  Ehlers-Danlos, L5-S1 disc surgery, asthma, 
obesity and depression presents with ___ days h/o vertigo and 
consistently going to right while walking. Exam shows cervical
spondylosis and mild weakness in right UE. She has vertigo on 
neck movements. labs show UTI. Most likely diagnosis is UTI with 
dehydration and /or peripheral vertigo. However given the h/o 
stroke and tight R ICA stenosis , concern of posterior 
circulation stroke is raised. The chance is small, given INR of 
3.9 and CT is negative for bleed. Pt admitted to stroke service, 
treat UTI and get MRI brain to rule out new stroke. 

Neuro: MRI negative for stroke. Physical exam consistent with 
peripheral vestibulopathy. Stroke risk factors checked upon 
admission: LDL: 87; HbA1c: 5.5. We continued home asa and 
statin. Due to elevated INR at time of admission, coumadin held, 
QOD ___ care set up prior to discharge to monitor INR. Pt 
instructed to continue to hold coumadin until INR < 3.0.

Dispo: pt discharged with home ___.

ID: Pt started on ceftriaxone for asymptomatic pyuria (avoid 
sulfa/ fluroquins given coumadin) at time of admission, 
transitioned to PO cefpodoxime upon discharge.
 
Medications on Admission:
tizanidine 2 mg Tab
Tablet(s) by mouth 
   
alendronate 70 mg Tab
1 Tablet(s) by mouth qweek
   
simvastatin 40 mg Tab
1 Tablet(s) by mouth once a day
   
sertraline 100 mg Tab
1 Tablet(s) by mouth once a day
   
warfarin 1 mg Tab (takes 4 times a week and 2 mg three times a
week but will need adjustment now)
   
fluticasone 50 mcg/Actuation Nasal Spray, Susp
1 spray twice a day
   
Lidoderm 5 % (700 mg/patch) Adhesive Patch
   
Omega ___ -- Unknown Strength
1 Capsule(s) Once Daily
   
glucosamine-chondroitin -- Unknown Strength
1 Capsule(s) Once Daily
   
Vitamin D 50,000 unit Cap Oral
1 Capsule(s) once weekly

ASA 81/ day
 
Discharge Medications:
1. tizanidine 2 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
2. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

3. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1)  
Nasal twice a day.  
4. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
5. sertraline 100 mg Tablet Sig: One (1) Tablet PO once a day.  
6. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
9. ergocalciferol (vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO once a week.  
10. cefpodoxime 100 mg Tablet Sig: One (1) Tablet PO twice a day 
for 3 days.
Disp:*6 Tablet(s)* Refills:*0*
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral vestibulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
 
You were admitted for changes in your gait.  An MRI of your 
brain was done and you did not have a new stroke.  We continued 
your aspirin but held your coumadin as your INR was 3.9.  Please 
be sure to have your INR checked every other day; you should 
continue to hold your coumadin until the INR is below 3.0. 

You were found to have a urinary tract infection; please be sure 
to complete a course of antibiotics as prescribed.

Your stroke risk factors were checked.  You should not smoke.  
Your LDL cholesterol was 87.  You were continued on your home 
simvastatin; please discuss with your primary care doctor to 
possibly increase your  You were checked for blood glucose 
control with a HgB A1c.  The level was 5.5.  You need to 
continue your blood pressure control.  
 
You should continue to eat a low fat healthy diet, and follow up 
with your primary care physician and stroke ___.
 
It was a pleasure taking care of you.
 
Followup Instructions:
___